US04414388
2-(2,2-Dicarbethoxyethenylamino)thiazole
2-Aminothiazole (10.0 g., 0.10 mole) and diethyl ethoxymethylenemalonate (23.8 g., 0.11 mole) were combined and heated on a steam bath for 1.25 hours. The reaction mixture was cooled and the resulting semisolid recrystallized from hexane to yield purified 2-(2,2-dicarbethoxyethenyl)thiazole (17.2 g. in two crops, Rf 0.6 on silica gel thin layer chromatography with chloroform/1% ethanol as eluant).

reactant | 2-Aminothiazole | 0.10 mole, 10.0 g | NC=1SC=CN1 | C3H4N2S
reactant | diethyl ethoxymethylenemalonate | 0.11 mole, 23.8 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | 2-(2,2-Dicarbethoxyethenylamino)thiazole | C(=O)(OCC)C(=CNC=1SC=CN1)C(=O)OCC | C11H14N2O4S
